US07019166B2
2,4,5-Trimethylphenylacetic Acid
A mixture of 69.9 g of 2,4,5-trimethylmandelic acid, 38.3 g of 36% hydrochloric acid, 11.2 g of red phosphorus and 6 g of KI in 270 ml of glacial acetic acid is heated to 100° C. for 16 hours. Subsequently, the mixture is diluted at room temperature with 150 ml of glacial acetic acid. The excess of phosphorus is filtered off with suction and washed three times with 50 ml of glacial acetic acid. The filtrate is admixed with 150 ml of water and the acetic acid is substantially removed by rotary evaporation at bath temperature 50° C. 60 mbar. The remaining suspension is adjusted to pH 1 using 5 ml of 20% sulfuric acid and the solid is filtered off with suction. The solid is washed three times with 180 ml of water each time, and this water becomes the first filtrate. This causes solid to precipitate out once again, which is filtered off with suction through the already existing filtercake. The filtercake is washed once more with 100 ml of water and dried to constant weight. This results in 64.46 g of white solid which, by GC, contains 95.8% of target product=61.7 g=96.2% of theory.

reactant | 2,4,5-trimethylmandelic acid | 69.9 g | CC1=C(C(C(=O)O)O)C=C(C(=C1)C)C | C11H14O3
reactant | hydrochloric acid | 38.3 g | Cl | ClH
solvent | acetic acid | 270 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2,4,5-Trimethylphenylacetic Acid | 64.46 g | CC1=C(C=C(C(=C1)C)C)CC(=O)O | C11H14O2
